US07910592B2
Alternate Route to [5-bromo-2-(methylthio)pyrimidin-4-yl]methanol
A mixture of DMF (1.554 mL, 20.07 mmol) and CH2Cl2 (49.9 mL) was cooled at 0° C. To this cold mixture was added oxalyl chloride (5.01 mL, 57.2 mmol). The resulting mixture was stirred cold (0° C.) for an additional 1 h. Volatiles were removed under reduced pressure to give a pale white solid, which was suspended in a mixture of THF (49.9 mL) and MeCN (49.9 mL). The resulting mixture was cooled in an ice bath. To this cold mixture was added 5-bromo-2-(methylthio)pyrimidine-4-carboxylic acid (5 g, 20.07 mmol) in portions in the course of 1 h. The resulting mixture was aged at 0° C. for additional 30 min before cooling to −78° C. NaBH4 (10.04 mL, 20.07 mmol) (2M in triethylene glycol dimethyl ether) was added into this cold mixture in 40 min. The reaction mixture was stirred cold for 2 h then allowed to warm up in a MeOH/ice bath for another 1 h before quenching with HCl (1N). The reaction crude was allowed to stand overnight at ambient temp. Volatiles were removed under reduced pressure. The resulting mixture was basified by NaOH (1N, aq.). The separated aqueous layer was back extracted with EtOAc. The combined organic extracts were dried (Na2SO4), filtered and evaporated to afford an amber, viscous liquor. This amber gel was purified by flash chromatography (SiO2, Biotage 65i cartridge). The column was eluted with a EtOAc/hexanes gradient mixture (0% to 20%). All related fractions were pooled and evaporated to give a white crystalline solid as the titled compound. LCMS calc.=235.94; found=236.88.

reactant | DMF | 20.07 mmol, 1.554 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 57.2 mmol, 5.01 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-bromo-2-(methylthio)pyrimidine-4-carboxylic acid | 20.07 mmol, 5 g | BrC=1C(=NC(=NC1)SC)C(=O)O | C6H5BrN2O2S
reactant | NaBH4 | 20.07 mmol, 2M, 10.04 mL | [BH4-].[Na+]
solvent | THF | 49.9 mL | C1CCOC1 | C4H8O
solvent | MeCN | 49.9 mL | CC#N | C2H3N
solvent | CH2Cl2 | 49.9 mL | C(Cl)Cl | CH2Cl2
product | [5-bromo-2-(methylthio)pyrimidin-4-yl]methanol | BrC=1C(=NC(=NC1)SC)CO | C6H7BrN2OS
